US04722811
To a one liter stainless steel autoclave, equipped with a mechanical stirrer, heater, cooling coils, automatic temperature controller, and a tared ethylene oxide cylinder, in a series of runs is added 500 grams neodecanoic acid and 2.0 g of the selected catalyst. The reactor is heated to approximately 100° C. and a gaseous N2 purge of the reactor is introduced to remove both oxygen and water. With continued N2 purging its temperature of the neo acid/catalyst solution is gradually raised to 150° C. Upon reaching temperature, the N2 purge is stopped and the reactor vents are sealed. Ethylene oxide is then slowly added to the reactor to maintain a reactor pressure of about 30 psig. The flow of ethylene oxide is then stopped. The reaction mixture is stirred for an additional 20 minutes, until the reactor pressure decreases to 15 psig. Total reaction time, from the start of ethylene oxide addition is about 55 minutes. The reactor is then vented, a gaseous nitrogen purge is introduced, and the reaction product is cooled to room temperature. The crude ethylene glycol mononeodecanoate product mixture thereby obtained was analyzed by gas chromatography. The data obtained are set forth in Table II below.

reactant | ethylene oxide | C1CO1 | C2H4O
reactant | neodecanoic acid | 500 grams | C(CCCCCC(C)(C)C)(=O)O | C10H20O2
product | ethylene glycol mononeodecanoate | C(CCCCCC(C)(C)C)(=O)OCCO | C12H24O3
